US03992449
Synthesis of β-(2,5-Dimethoxyphenyl)acrylonitrile
A mixture of 166 g of 2,5-dimethoxybenzaldehyde, 76 g of cyanoacetic acid, 5 ml of piperidine and 400 ml of pyridine was heated at 80° C understirring for 2 hours and then refluxed with heating at 140° C for 5 hours. After the reaction, the mixture was cooled to room temperature and poured into 2 liters of ice water. The precipitated crystals were filteredout and recrystallized from ethanol to give 117 g of the end product havinga melting point of 70 ~ 71° C (yield 62%).

reactant | 2,5-dimethoxybenzaldehyde | 166 g | COC1=C(C=O)C=C(C=C1)OC | C9H10O3
reactant | cyanoacetic acid | 76 g | C(#N)CC(=O)O | C3H3NO2
reactant | piperidine | 5 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | β-(2,5-Dimethoxyphenyl)acrylonitrile | 117 g, yield 62% | COC1=C(C=C(C=C1)OC)C=CC#N | C11H11NO2
